US09127014B2
In one embodiment, allylation of noroxymorphone with allyl acetate is accomplished by combining noroxymorphone with triethylamine (3 equivalents), toluene (50 mL) and tetrakis(triphenylphosphine)palladium[0] (0.1 equivalent), and heating the mixture at 80° C. for 64 hours. The mixture is cooled to a temperature of about 20° C. and filtered through a plug of CELITE and the filtrate was concentrated under reduced pressure. Naloxone is isolated from the concentrated filtrate using normal extractive procedures.

reactant | noroxymorphone | CN1CC[C@]23[C@@H]4C(=O)C=C[C@]2([C@H]1CC5=C3C(=C(C=C5)O)O4)O | C17H17NO4
reactant | allyl acetate | C(C)(=O)OCC=C | C5H8O2
reactant | triethylamine | 3 equivalents | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Naloxone | C=CCN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O | C19H21NO4
